US04371605
To a flask equipped with a stirrer and a heating mantle were added N-methyl-N-benzoyloxybenzamide (29.2 g, 0.119 mol) from above, 100 mL of water, and 10 g of sodium hydroxide. The mixture was stirred well and heated to 70°. A clear solution was obtained in 30 min. After a total of 45 min the solution was cooled and concentrated hydrochloric acid was added to bring the solution to pH 7. The mixture was extracted with methylene chloride, and the organic layer was dried, first with magnesium sulfate and then with 4 A molecular sieves. Evaporation of the solvent gave 14.7 g (81%) of colorless, liquid, N-hydroxy-N-methylbenzamide; nmr (CDCl3) 9.67 (broad s, CH, 1H), 7.7-7.1 (m, 5H), 3.20 (s, 3H). Attempts to vacuum distill the product were unsuccessful because of thermal decomposition.

reactant | N-methyl-N-benzoyloxybenzamide | 0.119 mol, 29.2 g | CN(C(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O | C15H13NO3
reactant | sodium hydroxide | 10 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 mL | O | H2O
product | N-hydroxy-N-methylbenzamide | ON(C(C1=CC=CC=C1)=O)C | C8H9NO2
